US08242104B2
A suspension of 4-bromo-2-fluorobenzonitrile (25.0 g, 125 mmol) in IMS (88 mL) at 0-5° C. and treated dropwise with acetyl chloride (71 mL, 1 mol) maintaining the temperature below 10° C. The reaction vessel was sealed and the mixture stirred at RT for 18 h before concentrating in vacuo. The resultant residue was triturated in diethyl ether to give 4-Bromo-2-fluoro-benzimidic acid ethyl ester hydrochloride as a white solid (20.3 g, 57%). 1H NMR δ (ppm) (DMSO-d): 7.93-7.88 (1H, m), 7.85-7.76 (1H, m), 7.72-7.64 (1H, m), 4.60 (2H, q, J=7.02 Hz), 1.47-1.38 (3H, m).

reactant | 4-bromo-2-fluorobenzonitrile | 125 mmol, 25.0 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | acetyl chloride | 1 mol, 71 mL | C(C)(=O)Cl | C2H3ClO
product | 4-Bromo-2-fluoro-benzimidic acid ethyl ester hydrochloride | 20.3 g, 57% | Cl.C(C)OC(C1=C(C=C(C=C1)Br)F)=N | InChI=1S/C9H9BrFNO.ClH/c1-2-13-9(12)7-4-3-6(10)5-8(7)11;/h3-5,12H,2H2,1H3;1H
